US08629282B2
3-Bromo-4-oxochroman-7-carbonitrile Int-2-A (140 mg, 0.55 mmol) was dissolved in DMF (3627 μL) and glacial acetic acid (91.0 μL) was added. The solution was cooled to −15° C. To this solution was added sodium azide (54.2 mg, 0.83 mmol) in water (725 μL) dropwise. After stirring for 2 h at −15° C., the reaction mixture was warmed to room temperature and stirred until all the starting material was consumed. The color of the solution turned dark red. The reaction mixture was diluted by the addition of 50 mL water and extracted by EtOAc twice. The combined organic layers were washed with saturated NaHCO3 solution then brine, dried (MgSO4), and filtered before it was concentrated to give racemic 3-azido-4-oxochroman-7-carbonitrile (110 mg, 0.51 mmol, 92.5% yield): LCMS=237.02 [M+Na]+.

reactant | 3-Bromo-4-oxochroman-7-carbonitrile | BrC1COC2=CC(=CC=C2C1=O)C#N | C10H6BrNO2
reactant | acetic acid | 91.0 μL | C(C)(=O)O | C2H4O2
reactant | sodium azide | 0.83 mmol, 54.2 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 3627 μL | CN(C)C=O | C3H7NO
solvent | water | 725 μL | O | H2O
product | racemic 3-azido-4-oxochroman-7-carbonitrile | 0.51 mmol, 110 mg, 92.5% yield | N(=[N+]=[N-])C1COC2=CC(=CC=C2C1=O)C#N | C10H6N4O2
